US08013177B2
To Tetrakis(dimethylamino)zirconium (0.52 g, 1.94 mmol) dissolved in toluene (9 mL) was added allylindene (0.31 g, 1.99 mmol) at room temperature. The mixture was stirred at room temperature overnight. Removal of the solvent gave an oil. To the oil was added Me3SiCl (7.5 mL of 1 M in methylene chloride, 7.5 mmol) at room temperature. The mixture was stirred at room temperature overnight. Removal of the solvent gave a yellow solid (crude allylindenylzirconium trichloride). The yellow solid (crude allylindenylzirconium trichloride) was dissolved in THF (10 mL). N-BuCpLi (0.273 g, 2.13 mmol) dissolved in THF (5 mL) was added to above THF solution (allylindenylzirconium trichloride/THF solution) at 0° C. The mixture was stirred at 0° C. for 30 minutes, then warned to room temperature and stirred for another 2.5 hours. The solvent was removed. The residue was extracted with toluene (30 mL). The supernatant was separated from the solid. Removal of the solvent gave a pale yellow solid. The pale yellow solid was washed with pentane (30 mL) and then dried under vacuum. The desired compound was obtained as a pale yellow solid (0.43 g, 51% overall yield). The product was identified by 1H-NMR (FIG. 1). The product was not further purified and contained small amount of impurity (bis(n-butylcyclopentadienyl)zirconium dichloride, about 6 mol % based on the integrals in 1H-NMR of the product).

reactant | Tetrakis(dimethylamino)zirconium | 1.94 mmol, 0.52 g | CN(C)[Zr](N(C)C)(N(C)C)N(C)C
reactant | allylindene | 1.99 mmol, 0.31 g | C(C=C)C1C=CC2=CC=CC=C12 | C12H12
reactant | Me3SiCl | 7.5 mmol, 1 M, 7.5 mL | [Si](C)(C)(C)Cl | C3H9ClSi
reactant | toluene | 9 mL | C1(=CC=CC=C1)C | C7H8
product | allylindenylzirconium trichloride | [Cl-].[Cl-].[Cl-].C(C=C)[Zr+3]C1C=CC2=CC=CC=C12 | InChI=1S/C9H7.C3H5.3ClH.Zr/c1-2-5-9-7-3-6-8(9)4-1;1-3-2;;;;/h1-7H;3H,1-2H2;3*1H;/q;;;;;+3/p-3
